US08957070B2
N-{2-[5-(2-Cyanoethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a mixture of 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanamide (1.32 g) and pyridine (15 mL) was added trifluoroacetic anhydride (0.90 mL) at 0° C. over 15 min. The reaction mixture was stirred at room temperature for 2 hr and concentrated. 10% Aqueous citric acid solution was added to the residue. The resulting crystals were collected by filtration, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (1.20 g, yield 95%) was obtained as yellow crystals from a fraction eluted with tetrahydrofuran-hexane (2:1, volume ratio). melting point 207-208° C.

reactant | 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanamide | 1.32 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CCC(=O)N)S(=O)(=O)C=1SC=CC1 | C19H18N4O3S3
reactant | trifluoroacetic anhydride | 0.90 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-{2-[5-(2-Cyanoethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 1.20 g, yield 95% | C(#N)CCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C19H16N4O2S3
